US05198449
N-(3,4-Difluorophenyl)-α-(4-fluorophenyl)-1-[2-(1-naphthalenyloxy)ethyl]-4-piperidinemethanamine dihydrochloride
A mixture of 4-[[(3,4-difluorophenyl)amino](4-fluorophenyl)methyl]piperidine (5.41 g, 0.0169 mol), 1-(2-bromoethoxy)naphthalene (4.23 g, 0.0169 mol) and sodium bicarbonate (5.53 g, 0.059 mol) in 350 mL of 1-butanol containing sodium iodide (0.2 g) was heated 20 h at reflux. The reaction was concentrated to dryness and partitioned between chloroform and water. The chloroform layer was washed with 5% sodium hydroxide and dried (Na2SO4). Chloroform was removed to give a brown oil. The oil was dissolved in methylene chloride and placed on a silica gel column for flash chromatography. Elution was accomplished using 1% methanol-methylene chloride and 2% methanol-methylene chloride. Fractions of similar purity were combined and solvents removed to give a fluffy grey material. This material was converted to the HCl salt and the salt was recrystallized from methanol-diethyl ether to give a whitish-grey solid. The material was dried 16 h in vacuo at 80° C. This process provided 5.06 g (53.1%) of greyish material, mp 212°-215° C. (dec).

reactant | 4-[[(3,4-difluorophenyl)amino](4-fluorophenyl)methyl]piperidine | 0.0169 mol, 5.41 g | FC=1C=C(C=CC1F)NC(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F3N2
reactant | 1-(2-bromoethoxy)naphthalene | 0.0169 mol, 4.23 g | BrCCOC1=CC=CC2=CC=CC=C12 | C12H11BrO
reactant | sodium bicarbonate | 0.059 mol, 5.53 g | C([O-])(O)=O.[Na+]
reactant | sodium iodide | 0.2 g | [I-].[Na+]
reactant | HCl | Cl | ClH
solvent | 1-butanol | 350 mL | C(CCC)O | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(3,4-Difluorophenyl)-α-(4-fluorophenyl)-1-[2-(1-naphthalenyloxy)ethyl]-4-piperidinemethanamine dihydrochloride | 5.06 g, 53.1% | Cl.Cl.FC=1C=C(C=CC1F)NC(C1CCN(CC1)CCOC1=CC=CC2=CC=CC=C12)C1=CC=C(C=C1)F | InChI=1S/C30H29F3N2O.2ClH/c31-24-10-8-22(9-11-24)30(34-25-12-13-27(32)28(33)20-25)23-14-16-35(17-15-23)18-19-36-29-7-3-5-21-4-1-2-6-26(21)29;;/h1-13,20,23,30,34H,14-19H2;2*1H
